US08022223B2
Step C: 3-(2-bromo-5-morpholinophenoxy)pyridin-2-amine.
In a 250 mL round-bottom flask, 3-(3-morpholinophenoxy)pyridin-2-amine (0.720 g, 2.654 mmol) was dissolved in 25 mL of acetic acid and Bromine (2.654 mL, 2.654 mmol) (1M in AcOH) was added slowly. After agitating for 1 hour the mixture was evaporated and the residue was distributed between dichloromethane and sodium bicarbonate solution. The organic phase was separated and evaporated. The residue was purified by column chromatography on silica gel, eluted with 1-3% methanol/dichloromethane to give the title compound (0.72 g, 77%) as white solid.

reactant | 3-(3-morpholinophenoxy)pyridin-2-amine | 2.654 mmol, 0.720 g | O1CCN(CC1)C=1C=C(OC=2C(=NC=CC2)N)C=CC1 | C15H17N3O2
reactant | Bromine | 2.654 mmol, 1M, 2.654 mL | BrBr | Br2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 3-(2-bromo-5-morpholinophenoxy)pyridin-2-amine | 0.72 g, 77% | BrC1=C(OC=2C(=NC=CC2)N)C=C(C=C1)N1CCOCC1 | C15H16BrN3O2
